US05077409
3,4-Dimethyl-1-[[3-[[[4-(tetradecyloxy)phenyl]acetyl]amino]phenyl]methyl]pyridinium bromide
A mixture of 1.5 g of N-[3-(bromomethyl)phenyl]-4-(tetradecyloxy)benzeneacetamide and 933.5 mg of 3,4-lutidine in 25 ml of acetonitrile is refluxed under argon for 4 hours. The solvent is evaporated and the residue mixed with ether. The solid is collected via centrifugation, washed with ether several times and vacuum dried to give 1.5 g of the desired product as a gray-white powder, m.p. 125°-128° C.

reactant | N-[3-(bromomethyl)phenyl]-4-(tetradecyloxy)benzeneacetamide | 1.5 g | BrCC=1C=C(C=CC1)NC(CC1=CC=C(C=C1)OCCCCCCCCCCCCCC)=O | C29H42BrNO2
reactant | 3,4-lutidine | 933.5 mg | N1=CC(=C(C=C1)C)C | C7H9N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 3,4-Dimethyl-1-[[3-[[[4-(tetradecyloxy)phenyl]acetyl]amino]phenyl]methyl]pyridinium bromide | 1.5 g | [Br-].CC=1C=[N+](C=CC1C)CC1=CC(=CC=C1)NC(CC1=CC=C(C=C1)OCCCCCCCCCCCCCC)=O | InChI=1S/C36H50N2O2.BrH/c1-4-5-6-7-8-9-10-11-12-13-14-15-25-40-35-21-19-32(20-22-35)27-36(39)37-34-18-16-17-33(26-34)29-38-24-23-30(2)31(3)28-38;/h16-24,26,28H,4-15,25,27,29H2,1-3H3;1H
